US06380230B1
A) 1-Isopropenyl-2,4-dimethoxybenzene
10.57 g of 1-(2,4-dimethoxyphenyl)ethanone are dissolved in 100 ml of ether and 50 ml of THF under nitrogen. 55 ml of 1.6M methyllithium in ether are added at −50° C. and the mixture is left stirring for 2 hours between −60° C. and −40° C. and then for 30 minutes between −40° C. and 0° C. and for 3 hours at RT. It is cooled to 0° C. and 70 ml of 2N HCl are added. After separation of the phases by settling, the aqueous phase is extracted with ether and the organic phase is then dried over Na2SO4. This solution is concentrated and the residue is then taken up in 150 ml of THF and 75 ml of 2N HCl are added. After stirring for 4 hours at RT, 100 ml of water are added and this mixture is then extracted with ether. The organic phase is washed with Na2CO3, with water and then dried over Na2SO4 and concentrated. The residue is chromatographed on silica, eluting with a DCM/pentane mixture (70/30 and then 60/40). 5 g of the expected compound are obtained in the form of an oil.

reactant | 1-(2,4-dimethoxyphenyl)ethanone | 10.57 g | COC1=C(C=CC(=C1)OC)C(C)=O | C10H12O3
reactant | THF | 50 ml | C1CCOC1 | C4H8O
reactant | methyllithium | 1.6M, 55 ml | C[Li]
reactant | HCl | 2N, 70 ml | Cl | ClH
solvent | ether | 100 ml | CCOCC | C4H10O
product | 1-Isopropenyl-2,4-dimethoxybenzene | 5 g | C(=C)(C)C1=C(C=C(C=C1)OC)OC | C11H14O2
